.subckt fsdpsbq_x1 Q CK D SI SE SD VDD VSS
XFSDPSBQ_sei_P0 FSDPSBQ_se_b SE VDD VDD pmos w=2u l=100n
XFSDPSBQ_sei_N0 FSDPSBQ_se_b SE VSS VSS nmos w=1u l=100n
XFSDPSBQ_smx_MP0 FSDPSBQ_din SE D VDD pmos w=2u l=100n
XFSDPSBQ_smx_MN0 FSDPSBQ_din FSDPSBQ_se_b D VSS nmos w=1u l=100n
XFSDPSBQ_smx_MP1 FSDPSBQ_din FSDPSBQ_se_b SI VDD pmos w=2u l=100n
XFSDPSBQ_smx_MN1 FSDPSBQ_din SE SI VSS nmos w=1u l=100n
XFSDPSBQ_ck_P0 FSDPSBQ_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPSBQ_ck_N0 FSDPSBQ_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPSBQ_m_in_P FSDPSBQ_m_n1 CK FSDPSBQ_din VDD pmos w=2u l=100n
XFSDPSBQ_m_in_N FSDPSBQ_m_n1 FSDPSBQ_ck_b FSDPSBQ_din VSS nmos w=1u l=100n
XFSDPSBQ_m_i1_P0 FSDPSBQ_m_n2 FSDPSBQ_m_n1 VDD VDD pmos w=2u l=100n
XFSDPSBQ_m_i1_N0 FSDPSBQ_m_n2 FSDPSBQ_m_n1 VSS VSS nmos w=1u l=100n
XFSDPSBQ_m_i2_P0 FSDPSBQ_m_n1 FSDPSBQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPSBQ_m_i2_N0 FSDPSBQ_m_n1 FSDPSBQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPSBQ_m_fb_P FSDPSBQ_m_n1 FSDPSBQ_ck_b FSDPSBQ_m_n2 VDD pmos w=2u l=100n
XFSDPSBQ_m_fb_N FSDPSBQ_m_n1 CK FSDPSBQ_m_n2 VSS nmos w=1u l=100n
XFSDPSBQ_m_o_P0 FSDPSBQ_qm FSDPSBQ_m_n2 VDD VDD pmos w=2u l=100n
XFSDPSBQ_m_o_N0 FSDPSBQ_qm FSDPSBQ_m_n2 VSS VSS nmos w=1u l=100n
XFSDPSBQ_s_in_P FSDPSBQ_s_n1 FSDPSBQ_ck_b FSDPSBQ_qm VDD pmos w=2u l=100n
XFSDPSBQ_s_in_N FSDPSBQ_s_n1 CK FSDPSBQ_qm VSS nmos w=1u l=100n
XFSDPSBQ_s_i1_P0 FSDPSBQ_s_n2 FSDPSBQ_s_n1 VDD VDD pmos w=2u l=100n
XFSDPSBQ_s_i1_N0 FSDPSBQ_s_n2 FSDPSBQ_s_n1 VSS VSS nmos w=1u l=100n
XFSDPSBQ_s_i2_P0 FSDPSBQ_s_n1 FSDPSBQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPSBQ_s_i2_N0 FSDPSBQ_s_n1 FSDPSBQ_s_n2 VSS VSS nmos w=1u l=100n
XFSDPSBQ_s_fb_P FSDPSBQ_s_n1 CK FSDPSBQ_s_n2 VDD pmos w=2u l=100n
XFSDPSBQ_s_fb_N FSDPSBQ_s_n1 FSDPSBQ_ck_b FSDPSBQ_s_n2 VSS nmos w=1u l=100n
XFSDPSBQ_s_o_P0 Q FSDPSBQ_s_n2 VDD VDD pmos w=2u l=100n
XFSDPSBQ_s_o_N0 Q FSDPSBQ_s_n2 VSS VSS nmos w=1u l=100n
XFSDPSBQ_sdi_P0 FSDPSBQ_sd_b SD VDD VDD pmos w=2u l=100n
XFSDPSBQ_sdi_N0 FSDPSBQ_sd_b SD VSS VSS nmos w=1u l=100n
XFSDPSBQ_rst Q FSDPSBQ_sd_b VDD VDD pmos w=2u l=100n
.ends fsdpsbq_x1
